US08809333B2
To a solution of 2-(1H-pyrazol-4-yl)quinoxaline (0.400 g, 1.39 mmol) in acetonitrile (10 mL) was added cesium carbonate (8.73 g, 2.68 mmol, 2.5 eq), sodium iodide (0.032 g, 0.214 mmol, 0.2 eq) and (R)-ethyl 4-bromo-2-methyl-2-(methylsulfonyl)butanoate (0.400 g 1.39 mmol, 1.3 eq). The reaction mixture was heated at 50° C. overnight. The reaction was filtered over a pad of diatomateous earth. The filtrate was evaporated and the crude was purified by flash chromatography on silica gel eluting with 40-100% ethyl acetate/heptane to give ethyl (2R)-2-methyl-2-(methylsulfonyl)-4-[4-(quinoxalin-2-yl)-1H-pyrazol-1-yl]butanoate (0.078 g, 14% yield) as a colorless oil. LC-MS M+H+403.1.

reactant | 2-(1H-pyrazol-4-yl)quinoxaline | 1.39 mmol, 0.400 g | N1N=CC(=C1)C1=NC2=CC=CC=C2N=C1 | C11H8N4
reactant | cesium carbonate | 2.68 mmol, 8.73 g, 2.5 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium iodide | 0.214 mmol, 0.032 g, 0.2 eq | [I-].[Na+]
reactant | (R)-ethyl 4-bromo-2-methyl-2-(methylsulfonyl)butanoate | 1.39 mmol, 0.400 g, 1.3 eq | BrCC[C@](C(=O)OCC)(S(=O)(=O)C)C | C8H15BrO4S
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | ethyl (2R)-2-methyl-2-(methylsulfonyl)-4-[4-(quinoxalin-2-yl)-1H-pyrazol-1-yl]butanoate | 0.078 g, 14% yield | C[C@](C(=O)OCC)(CCN1N=CC(=C1)C1=NC2=CC=CC=C2N=C1)S(=O)(=O)C | C19H22N4O4S
